US07375227B2
1D. N-(1-{2-[3-(2-Methyl-quinolin-4-yl)-ureido]-ethyl}-piperidin-4-yl)-4-trifluoromethyl-benzenesulfonamide
A solution of 4-trifluoromethyl-benzenesulfonyl chloride (0.03 mmol) in THF (1 mL) is added to a mixture of 1-[2-(4-amino-piperidin-1-yl)-ethyl]-3-(2-methyl-quinolin-4-yl)-urea (0.025 mmol), DIPEA (6 μL) and THF (1 mL). The reaction mixture is heated at 40° C. for 18 h, and then is evaporated to dryness. The residue is taken up in formic acid (1 mL), and purified by preparative HPLC to provide the title compound.

reactant | 4-trifluoromethyl-benzenesulfonyl chloride | 0.03 mmol | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
reactant | 1-[2-(4-amino-piperidin-1-yl)-ethyl]-3-(2-methyl-quinolin-4-yl)-urea | 0.025 mmol | NC1CCN(CC1)CCNC(=O)NC1=CC(=NC2=CC=CC=C12)C | C18H25N5O
reactant | DIPEA | 6 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | N-(1-{2-[3-(2-Methyl-quinolin-4-yl)-ureido]-ethyl}-piperidin-4-yl)-4-trifluoromethyl-benzenesulfonamide | CC1=NC2=CC=CC=C2C(=C1)NC(NCCN1CCC(CC1)NS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)=O | C25H28F3N5O3S
